US05877202
8-Amino-octanoic acid methyl-butyl-amide
Combine 8-(t-butoxycarbonyl)amino-octanoic acid methyl-butyl-amide and 4M hydrochloric acid in dioxane (10 mL). After 1 hour, the reaction mixture is evaporated to a residue. Partition the residue between toluene and 1M sodium hydroxide solution. Extract the aqueous layer with toluene. Combine the organic layers, dry over MgSO4, and filter to give the title compound as a toluene solution. Evaporate in vacuo to give the title compound.

reactant | 8-(t-butoxycarbonyl)amino-octanoic acid methyl-butyl-amide | CN(C(CCCCCCCNC(=O)OC(C)(C)C)=O)CCCC | C18H36N2O3
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 8-Amino-octanoic acid methyl-butyl-amide | CN(C(CCCCCCCN)=O)CCCC | C13H28N2O
